US07781435B2
(S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-pyrrolidin-1-ylmethyl-cyclobutyl)-1H-imidazol-4-yl]-amide
4-Nitro-1-(2-pyrrolidin-1-ylmethyl-cyclobutyl)-1H-imidazole was reduced and then coupled with 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (U.S. Ser. No. 11/078,898 filed Mar. 11, 2005) to afford the title compound: MS 474.6 m/z (M+1).

reactant | 4-Nitro-1-(2-pyrrolidin-1-ylmethyl-cyclobutyl)-1H-imidazole | [N+](=O)([O-])C=1N=CN(C1)C1C(CC1)CN1CCCC1 | C12H18N4O2
reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
product | (S)-2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [1-(2-pyrrolidin-1-ylmethyl-cyclobutyl)-1H-imidazol-4-yl]-amide | N1(CCCC1)CC1C(CC1)N1C=NC(=C1)NC([C@H](CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C25H33F2N5O2
